### PR TITLE
[Merged by Bors] - feat(Algebra/Lie/Rank): the rank of a Lie algebra, and regular elements

### PR DESCRIPTION
**Pull request by jcommelin**
We define the rank of a finite dimensional Lie algebra,
and prove the existence of regular elements
over sufficiently large base fields.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Rank.lean [hunk 1]
```diff
@@ -0,0 +1,251 @@
...
+
+open Matrix
+
+/-- Let `M` be a Lie module of a Lie algebra `L` over `R`,
+and let `b` be a basis of `L` and `bₘ` a basis of `M`.
+Then `lieCharpoly b bₘ` is the polynomial that evaluates on elements `x` of `L`
+to the characteristic polynomial of `⁅x, ·⁆` acting on `M`. -/
+noncomputable
+def lieCharpoly : Polynomial (MvPolynomial ι R) :=
+  (charpoly.univ R ιM).map <| MvPolynomial.bind₁ (lieMatrixPoly b bₘ)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Rank.lean:90]: It looks to me like this definition has an artificial depenence on `bₘ` (in the sense that the choice doesn't matter). Do I understand correctly that we should instead use:
```suggestion
variable (M) in
/-- Let `M` be a Lie module of a Lie algebra `L` over `R`,
and let `b` be a basis of `L` and `bₘ` a basis of `M`.
Then `lieCharpoly b bₘ` is the polynomial that evaluates on elements `x` of `L`
to the characteristic polynomial of `⁅x, ·⁆` acting on `M`. -/
noncomputable
def lieCharpoly [Module.Free R M] [Module.Finite R M] : Polynomial (MvPolynomial ι R) :=
  (charpoly.univ R (Module.Free.ChooseBasisIndex R M)).map <|
    MvPolynomial.bind₁ (lieMatrixPoly b (Module.Free.chooseBasis R M))
```

File: Mathlib/Algebra/Lie/Rank.lean [hunk 2]
```diff
@@ -0,0 +1,251 @@
...
+variable (b : Basis ι R L) (bₘ : Basis ιM R M) (b' : Basis ι' R L) (bₘ' : Basis ιM' R M)
+
+open LieModule LinearMap MvPolynomial in
+/-- Let `M` be a Lie module of a Lie algebra `L` over `R`,
+and let `b` be a basis of `L` and `bₘ` a basis of `M`.
+Then `lieMatrixPoly b bₘ (i,j)` is the polynomial that evaluates on elements `x` of `L`
+to the `(i,j)`-th coefficient of the matrix representation of `⁅x, ·⁆` acting on `M`. -/
+noncomputable
+def lieMatrixPoly (ij : ιM × ιM) : MvPolynomial ι R :=
+  ∑ k : ι, monomial (.single k 1) ((toMatrix bₘ bₘ <| φ <| b k) ij.1 ij.2)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Rank.lean:58]: I guess if we didn't have the constraint that Mathlib currently only supports polynomials with commutative coefficients, this could be:
```lean
def lieMatrixPoly' : MvPolynomial ι (Module.End R M) :=
   ∑ k : ι, monomial (.single k 1) (φ <| b k)
```
It might be worth adding a sentence to the doc string saying that this definition is morally a single-variable polynomial with coefficients in `Module.End R M`.

**Review by ocfnash — COMMENTED** [review]
I wondered about whether we could set all this up in an invariant way without using bases. I guess the approach would be to use the symmetric algebra as "invariant polynomials" rather than having to have an index.

I mean that if `Sᵏ M^*` is the `k`-th symmetric power (of the dual of) `M` then we think of this as degree-k polynomials on `M` so using `⊕ᵏ Sᵏ M^*` we should be able to make statements without needing an indexing set (and thus without bases, I think).

I didn't think this all the way through to the end because I think it would be an entire project of its own to set this up but I just wanted to mention it.

File: Mathlib/Algebra/Lie/Rank.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Rank.lean:90]: We could indeed do that. But I wanted to keep the basis flexible, so that it will be easier to show at some point that the result doesn't depend on the choice of basis.

File: Mathlib/Algebra/Lie/Rank.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Rank.lean:58]: I think noncommutative coefficients are already supported (or maybe only for `Polynomial`?)... but I really want something with coefficients in `R`, I think. It's not clear to me how I can use your proposed definition to extract the fact that the characteristic polynomial of `ad x` has coefficients that are "polynomial in `x`".

**Comment by jcommelin** [comment]
I agree that it might be possible to do (most) of this using symmetric algebras. But we would need a huge API about evaluating such "polynomials" and results about proving that they are homogeneous, etc...

File: Mathlib/Algebra/Lie/Rank.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Rank.lean:90]: I appreciate your point but I'm not (yet?) convinced. I note that elsewhere in the library we follow the pattern of making an arbitrary choice. For example `LinearMap.trace` or `LinearMap.det`.

File: Mathlib/Algebra/Lie/Rank.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Rank.lean:58]: Yes, non-commutatve coefficients are permitted for `Polynomial` but not for `MvPolynomial`. Do you think it might be worth adding a sentence in the doc string about this being morally a single-variable polynomial with coefficients in `Module.End R M`.

**Comment by ocfnash** [comment]
> I agree that it might be possible to do (most) of this using symmetric algebras. But we would need a huge API about evaluating such "polynomials" and results about proving that they are homogeneous, etc...

Yes, it wasn't a serious suggestion since we have nothing about symmetric algebras. There presumably is a nice abstract approach; what we're doing is defining the characteristic polynomial of linear family of endomorphims `φ : L →ₗ[R] Module.End R M`, rather than just a single one. The result is a single-variable polynomial with coefficients in `⊕ᵏ Sᵏ L^*` and it seems like this is obtained by taking traces in each term of `⊕ᵏ (Sᵏ L^* ⊗ ∧ⁿ⁻ᵏ (End R M))`. But this is just the graded symmetric algebra of the superalgebra `L ⊕ M` (with `L` even and `M` odd). I'm not completely sure that's the right picture but anyway it's definitely the right decision to use bases here.

File: Mathlib/Algebra/Lie/Rank.lean [hunk 3]
```diff
@@ -0,0 +1,251 @@
...
+
+## References
+
+* [barnes1967]: "On Cartan subalgebras of Lie algebras" by D.W. Barnes.
+
+-/
+
+open scoped BigOperators
+
+variable {R L M ι ι' ιM ιM' : Type*}
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Rank.lean:37]: None of the primed variables are used. I expect you have plans to use them but I think we should only add them when that happens.
```suggestion
variable {R L M ι ιM : Type*}
```

File: Mathlib/Algebra/Lie/Rank.lean [hunk 4]
```diff
@@ -0,0 +1,251 @@
...
+variable [CommRing R] [LieRing L] [LieAlgebra R L]
+variable [AddCommGroup M] [Module R M] [LieRingModule L M] [LieModule R L M]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Rank.lean:39]: There's not really any Lie theory here! If we change the variables to:
```suggestion
[CommRing R] [AddCommGroup L] [Module R L] [AddCommGroup M] [Module R M]
  (φ : L →ₗ[R] Module.End R M) (ad : L →ₗ[R] Module.End R L)
```
then with minor tweaks, everything goes through. (The point is that `φ` and `ad` do not need to be Lie algebra morphisms.)

So I think this is really the study of linear families of endomorphisms and should be moved outside the Lie theory folder to somewhere like `Mathlib.LinearAlgebra.Charpoly.Family`.

File: Mathlib/Algebra/Lie/Rank.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Rank.lean:90]: But they come with lemmas that show you can use an arbitrary basis to convert to the corresponding concept for matrices. Because we want polynomials everywhere, we can't even really state such lemmas, unless we allow for the flexibility of choosing a basis in these decls.

Comment (jcommelin) [reply Mathlib/Algebra/Lie/Rank.lean]: This has been factored out into a new theory file. So this is resolved.

File: Mathlib/Algebra/Lie/Rank.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Rank.lean]: This whole theory has been factored out into a new file. So this is resolved.

File: Mathlib/Algebra/Lie/Rank.lean (hunk 4 above)
Comment (jcommelin) [reply Mathlib/Algebra/Lie/Rank.lean]: Done

**Comment by ocfnash** [comment]
This is really lovely but I believe there is still no Lie theory here, in the sense that everything up to and including `exists_isRegular` still holds for any family of linear maps: `L →ₗ[R] Module.End R L`. In fact I think the results still apply to any family `L →ₗ[R] Module.End R M` with modifications to say `finrank R M` instead of `finrank R L` where appropriate.

I think you've done all the hard work #11773 so hopefully this last generalisation should be easy.

File: Mathlib/Algebra/Module/LinearMap/Polynomial.lean [hunk 5]
```diff
@@ -369,6 +379,159 @@ lemma polyCharpoly_coeff_eval (x : L) (i : ℕ) :
...
+  apply Polynomial.trailingCoeff_nonzero_iff_nonzero.mpr _ h
+  apply (LinearMap.charpoly_monic _).ne_zero
+
+/-- Let `L` and `M` be finite free modules over `R`,
+and let `φ : L →ₗ[R] Module.End R M` be a linear family of endomorphisms,
+and denote `n := polyRank φ`.
+
+An element `x : L` is *regular* with respect to `φ`
+if the `n`-th coefficient of the characteristic polynomial of `φ x` is non-zero. -/
+def IsRegular (x : L) : Prop :=
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/LinearMap/Polynomial.lean:480]: Is this a sensible name in this context? `LinearMap.IsRegular`....

File: Mathlib/Algebra/Lie/Rank.lean [hunk 6]
```diff
@@ -0,0 +1,185 @@
...
+lemma polyCharpoly_coeff_rank_ne_zero :
+    (polyCharpoly φ b).coeff (rank R L M) ≠ 0 :=
+  polyCharpoly_coeff_nilRank_ne_zero _ _
+
+lemma rank_eq_natTrailingDegree :
+    rank R L M = (polyCharpoly φ b).natTrailingDegree := by
+  apply nilRank_eq_polyCharpoly_natTrailingDegree
+
+open FiniteDimensional
+lemma rank_le_card [StrongRankCondition R] : rank R L M ≤ Fintype.card ιₘ :=
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Rank.lean:69]: (and elsewhere throughout this file)

**Review by ocfnash — APPROVED** [review]
Exellent! A few final nitpicks.

Thanks :-)

bors d+

File: Mathlib/Algebra/Lie/Rank.lean [hunk 7]
```diff
@@ -0,0 +1,185 @@
...
+variable (R L)
+
+/--
+Let `L` be a Lie algebra over a nontrivial commutative ring `R`,
+and assume that `L` is finite free as `R`-module.
+Then the coefficients of the characteristic polynomial of `ad R L x` are polynomial in `x`.
+The *rank* of `L` is the smallest `n` for which the `n`-th coefficient is not the zero polynomial.
+-/
+noncomputable
+abbrev rank : ℕ := LieModule.rank R L L
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Rank.lean:129]: Somehow a comment got dropped from my review.

I had written that I personally wouldn't include any API for this definition since it is an `abbrev` and you have already provided it for `LieModule.rank`. However I think the point is debatable so I'll let you decide what you prefer.

Comment (jcommelin) [reply Mathlib/Algebra/Lie/Rank.lean:129]: It wasn't too much work, and I think it may be helpful to end users. So I'll leave it as is.

**Comment by jcommelin** [comment]
Oliver, major thanks for your very detailed reviews!
